US05356918
N-(2-Nitrooxyethyl)-5-(1-naphthyl)-2-oxothiazolidine-4-carboxamide (Compound No 1-25)
1.23 ml of triethylamine and 0.36 ml of diethyl cyanophosphonate were added, whilst ice-cooling and stirring, to a suspension of 370 mg of N-(2-nitrooxyethyl)amine nitrate and 500 mg of 5-(1-naphthyl)-2-oxothiazolidine-4-carboxylic acid in 50 ml of dry tetrahydrofuran, and the resulting mixture was stirred at room temperature for 4 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was mixed with ethyl acetate. The resulting mixture was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the crystalline residue was recrystallized from ethanol, to give 367 mg of the title compound as colorless crystals, melting at 151°-153° C.

reactant | triethylamine | 1.23 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 0.36 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | N-(2-nitrooxyethyl)amine nitrate | 370 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | 5-(1-naphthyl)-2-oxothiazolidine-4-carboxylic acid | 500 mg | C1(=CC=CC2=CC=CC=C12)C1C(NC(S1)=O)C(=O)O | C14H11NO3S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(2-Nitrooxyethyl)-5-(1-naphthyl)-2-oxothiazolidine-4-carboxamide | 367 mg | [N+](=O)([O-])OCCNC(=O)C1NC(SC1C1=CC=CC2=CC=CC=C12)=O | C16H15N3O5S
